US07071217B2
Preparation of N-(5-methyl-1,3,4-thiadiazol-2-yl)-4-{[(Z)-(2-oxo-1,2-dihydro-3H-indol-3-ylidene)methyl]amino}benzenesulfonamide
The title compound was prepared analogous to Example 5 from 3-(hydroxymethylene)-1,3-dihydro-2H-indol-2-one and 4-amino-N-(5-methyl[1,3,4]thiadiazol-2-yl)-benzenesulfonamide. 1H NMR (DMSO) 13.90 (bs, 1H); 10.84 (d, 1H); 10.58 (s, 1H); 8.62 (d, 1H); 7.81 (d, 2H); 7.60 (d, 1H); 7.55 (d, 2H); 7.12 (m, 1H); 6.95 (m, 1H); 7.84 (d, 1H); 2.48 (s, 3H). Electrospray MS 414 (MH+).

reactant | 3-(hydroxymethylene)-1,3-dihydro-2H-indol-2-one | OC=C1C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 4-amino-N-(5-methyl[1,3,4]thiadiazol-2-yl)-benzenesulfonamide | NC1=CC=C(C=C1)S(=O)(=O)NC=1SC(=NN1)C | C9H10N4O2S2
product | N-(5-methyl-1,3,4-thiadiazol-2-yl)-4-{[(Z)-(2-oxo-1,2-dihydro-3H-indol-3-ylidene)methyl]amino}benzenesulfonamide | CC1=NN=C(S1)NS(=O)(=O)C1=CC=C(C=C1)N\C=C\1/C(NC2=CC=CC=C12)=O | C18H15N5O3S2
